US05985837
To a solution of 2.0 g 2-nitrobenzoic acid and 0.98 g dimethylammonium chloride in dichloromethane at 0° C. were added 2.29 g 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 1.62 g N-hydroxy-benzotriazol and 6.05 g N-methyl-morpholine. The resulting mixture was stirred at room temperature overnight. The reaction mixture was then washed sequentially, with saturated sodium hydrogen carbonate, a 5% aqueous solution of citric acid and brine. The organic phase was dried over sodium sulfate. After filteration the solvent was removed in vacuo yielding N,N-dimethyl-2-nitrobenzamide (2.13 g).

reactant | 2-nitrobenzoic acid | 2.0 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC=C1 | C7H5NO4
reactant | dimethylammonium chloride | 0.98 g | [Cl-].C[NH2+]C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.29 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxy-benzotriazol | 1.62 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methyl-morpholine | 6.05 g | CN1CCOCC1 | C5H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-dimethyl-2-nitrobenzamide | 2.13 g | CN(C(C1=C(C=CC=C1)[N+](=O)[O-])=O)C | C9H10N2O3
